US08314092B2
Dissolve 3-[4-(7-chloro-2-ethyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid dihydrochloride (201 mg, 400 μmoles in water and methanol (5 mL) then load on to a SCX-2 cartridge (2 g). Wash with methanol and then elute with ammonia in methanol. Concentrate the basic solution to dryness to give 3-[4-(7-chloro-2-ethyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid (160 mg, 373 μmoles). Then treat with 2N sodium hydroxide (187 μL, (373 μmoles) and water (3 mL) to cause solution. Then freeze-dry to yield sodium 3-[4-(7-chloro-2-ethyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate (164 mg, 98% yield). MS (m/z): 429.18 (M+1).

reactant | 3-[4-(7-chloro-2-ethyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid dihydrochloride | Cl.Cl.ClC=1C=CC2=C(CN3C(C(=N2)N2CCN(CC2)CC(C(=O)O)(C)C)=CC(=C3)CC)C1
reactant | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 3-[4-(7-chloro-2-ethyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid | 373 μmoles, 160 mg | ClC=1C=CC2=C(CN3C(C(=N2)N2CCN(CC2)CC(C(=O)O)(C)C)=CC(=C3)CC)C1 | C23H29ClN4O2
